US06573263B2
Analogously to Example 28A, 10 g (72.4 mmol) of sodium (2E)-4-methoxy-4-oxo-2-buten-2-olate and 0.40 g (2.41 mmol) of potassium iodide are reacted with 14.3 g (72.4 mmol) of [(1E)-3-bromo-1-propenyl]benzene to give methyl (4E)-2-acetyl-5-phenyl-4-pentenoate.

reactant | sodium (2E)-4-methoxy-4-oxo-2-buten-2-olate | 72.4 mmol, 10 g | COC(/C=C(\C)/[O-])=O.[Na+]
reactant | potassium iodide | 2.41 mmol, 0.40 g | [I-].[K+]
reactant | [(1E)-3-bromo-1-propenyl]benzene | 72.4 mmol, 14.3 g | BrC/C=C/C1=CC=CC=C1 | C9H9Br
product | methyl (4E)-2-acetyl-5-phenyl-4-pentenoate | C(C)(=O)C(C(=O)OC)C\C=C\C1=CC=CC=C1 | C14H16O3
